US08492582B2
Water (1.2 mL), phenylboranic acid (0.22 g), sodium carbonate (0.38 g), and bis(triphenylphosphine)palladium(II) dichloride (21 mg) were added to an ethylene glycol dimethyl ether (4 mL) suspension of the obtained 7-bromo-6-methoxy-2-methyl-4H-3,1-benzoxazin-4-one (0.40 g), followed by heating to reflux under a nitrogen atmosphere for 4 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added thereto. The aqueous layer was separated, and the organic layer was extracted with a 2 mol/L aqueous solution of sodium hydroxide. The aqueous layer and the extract were combined. The resulting mixture was adjusted to a pH of 1 with 6 mol/L hydrochloric acid, and ethyl acetate was added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 0.27 g of 2-(acetamido)-5-methoxy-4-phenylbenzoic acid as a yellow solid.

reactant | phenylboranic acid | 0.22 g | C1(=CC=CC=C1)OB=O | C6H5BO2
reactant | sodium carbonate | 0.38 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 7-bromo-6-methoxy-2-methyl-4H-3,1-benzoxazin-4-one | 0.40 g | BrC1=CC2=C(C(OC(=N2)C)=O)C=C1OC | C10H8BrNO3
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 21 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
solvent | Water | 1.2 mL | O | H2O
product | 2-(acetamido)-5-methoxy-4-phenylbenzoic acid | 0.27 g | C(C)(=O)NC1=C(C(=O)O)C=C(C(=C1)C1=CC=CC=C1)OC | C16H15NO4
